US08466176B2
In a purged and dried vessel, N-[(6-bromopyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (0.2 g, 0.536 mmol, 1 eq.) was dissolved in 3 ml of toluene and tert-butyl(pentyloxy)carbamate (0.217 g, 1.072 mmol 2 eq.) was added followed by Pddba2 (0.065 g, 0.113 mmol, 0.21 eq.) and BINAP (0.069 g, 0.113 mmol, 0.21 eq.). Then tBuOK (0.12 g, 1.07 mmol, 2 eq.) was added and the vessel purged with argon and sealed. The reaction was stirred at 90° C. for 24 h. The solvent was evaporated and residue taken in EtOAc, filtered through “celite”, washed with H2O, dried over MgSO4, and concentrated. The crude was purified by chromatography on silica gel to give tert-butyl {6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}(pentyloxy)carbamate (0.115 g, 41%) as a viscous yellow oil.

reactant | N-[(6-bromopyridin-2-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 0.536 mmol, 0.2 g, 1 eq. | BrC1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C15H13BrN6O
reactant | tert-butyl(pentyloxy)carbamate | 1.072 mmol, 0.217 g, 2 eq. | C(C)(C)(C)OC(NOCCCCC)=O | C10H21NO3
reactant | BINAP | 0.113 mmol, 0.069 g, 0.21 eq. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | tBuOK | 1.07 mmol, 0.12 g, 2 eq. | C(C)(C)(C)O[K]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl {6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}(pentyloxy)carbamate | 0.115 g, 41% | CN1N=NN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N(C(OC(C)(C)C)=O)OCCCCC | C25H33N7O4
